US07399767B2
4-Methyl-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-3-pyridin-4-yl-2H-chromen-7-ol
To a solution of 4-[2-(piperidin-1-yl)-ethoxy]-iodobenzene (2.56 g, 7.73 mmol, 3 eq), in tetrahydrofuran (10 mL) under argon at −78° C. was added dropwise isopropylmagnesium bromide (3.6 mL of 2.13 M, 7.73 mmol, 3 eq). The reaction mixture was then stirred for 2 hours at about −78° C. A tetrahydrofuran solution of 7-(tert-butyl-dimethyl-silanyl)-4-methyl-3-pyridin-4-yl-2H-chromen-2-ol (950 mg, 2.58 mmol, 1 eq, in 5 mL), prepared as in Example 27, was then added, the cooling bath was removed and the reaction mixture was allowed to warm to room temperature overnight. After about 18 hours, the reaction was worked-up with addition of saturated ammonium acetate solution (15 mL) and extraction with ethyl ether (2×). The combined organic extracts were washed with brine and water, dried with anhydrous sodium sulphate, filtered and evaporated to yield a sticky semisolid residue. To this solid in THF at room temperature was added 0.5 mL HCl in MeOH. The mixture was stirred for 30 min and quenched with sat. NaHCO3, partitioned between CH2Cl2 and water. The aqueous layer was extracted 3× with CH2Cl2. The combined organic phase was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to afford the crude material. The title product was isolated as a viscous, colorless, semisolid foam via chromatography on silica gel eluted with 3% methanol/dichloromethane.

reactant | 4-[2-(piperidin-1-yl)-ethoxy]-iodobenzene | 7.73 mmol, 2.56 g, 3 eq | N1(CCCCC1)CCOC1=CC=C(C=C1)I | C13H18INO
reactant | isopropylmagnesium bromide | 7.73 mmol, 2.13 M, 3.6 mL, 3 eq | C(C)(C)[Mg]Br
reactant | 7-(tert-butyl-dimethyl-silanyl)-4-methyl-3-pyridin-4-yl-2H-chromen-2-ol | 2.58 mmol, 5 mL, 950 mg, 1 eq | C(C)(C)(C)[Si](C1=CC=C2C(=C(C(OC2=C1)O)C1=CC=NC=C1)C)(C)C | C21H27NO2Si
reactant | HCl | 0.5 mL | Cl | ClH
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 4-Methyl-2-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-3-pyridin-4-yl-2H-chromen-7-ol | CC1=C(C(OC2=CC(=CC=C12)O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=NC=C1 | C28H30N2O3
